US08980911B2
N-[3-(4-Cyano-2,6-difluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropane carboxamide (Compound No. 51) was prepared from N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide and 4-cyano-2,6-difluorobenzoyl chloride.

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide | N1C=CC=2C1=C(N=CC2)NC(=O)C2CC2 | C11H11N3O
reactant | 4-cyano-2,6-difluorobenzoyl chloride | C(#N)C1=CC(=C(C(=O)Cl)C(=C1)F)F | C8H2ClF2NO
product | N-[3-(4-Cyano-2,6-difluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropane carboxamide | C(#N)C1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)F)F | C19H12F2N4O2
